US05736487
17(a) Methyl N-(3-chloro-4-hydroxyphenyl)carbamate
5 ml of water and 2.5 ml of 10% aqueous sodium hydroxide solution were carefully added to 1.70 g of 4-amino-2-chlorophenol cooled in an ice-water bath and 2 ml of methyl chloroformate were added dropwise to the resulting mixture. The reaction mixture was then stirred for 3 hours at room temperature, at the end of which it was acidified with 4 ml of 2N hydrochloric acid, and the resulting mixture was extracted with methylene; chloride. The resulting extract was washed with water and then dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure to give a crude crystalline solid which was purified by column chromatography through silica gel using a 2:1 by volume mixture of hexane and ethyl acetate as the eluent to give 2.08 g (yield 87%) of the title compound as a pale brown crystalline solid.

reactant | sodium hydroxide | 2.5 ml | [OH-].[Na+]
reactant | 4-amino-2-chlorophenol | 1.70 g | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | methyl chloroformate | 2 ml | ClC(=O)OC | C2H3ClO2
reactant | hydrochloric acid | 2N, 4 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | Methyl N-(3-chloro-4-hydroxyphenyl)carbamate | 2.08 g, yield 87% | ClC=1C=C(C=CC1O)NC(OC)=O | C8H8ClNO3
